US04415580
A 10 g portion of 5-acetyl-1,2-dihydro-6-methyl-2-oxonicotinic acid was heated neat in a bath of a boiling mixture of diphenyl and diphenyl ether for 40 minutes and the mixture allowed to cool to room temperature. The reaction mixture was dissolved in hot isopropyl alcohol, treated with decolorizing charcoal and filtered, and the filtrate allowed to stand at room temperature for several hours. The separated product was collected and dried at 90°-95° C. to yield 4.3 g of 5-acetyl-6-methyl-2-(1H)-pyridinone, m.p. 193°-195° C.

reactant | 5-acetyl-1,2-dihydro-6-methyl-2-oxonicotinic acid | C(C)(=O)C1=C(NC(C(C(=O)O)=C1)=O)C | C9H9NO4
reactant | charcoal | C | CH4
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 5-acetyl-6-methyl-2-(1H)-pyridinone | 4.3 g | C(C)(=O)C=1C=CC(NC1C)=O | C8H9NO2
